US05866573
Step B: rac 2-Aminoethylpyran
A mixture of rac 2-cyanomethylpyran (4.2 g) and 10% Pd/C (4.0 g) in 1:1 ethanol:acetic acid (150 ml) was hydrogenated at 55 psi overnight. The reaction mixture was filtered through Celite and the solvents were then removed in vacuo. The residue was partitioned between chloroform and 10% sodium carbonate solution. The organic phase was dried over sodium sulfate. Removal of the solvent gave the title compound:

reactant | rac 2-cyanomethylpyran | 4.2 g | C(#N)CC1OC=CC=C1 | C7H7NO
reactant | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 4.0 g | [Pd] | Pd
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | rac 2-Aminoethylpyran | NCCC1OC=CC=C1 | C7H11NO
